US08937082B2
Nilotinib base (0.5 g, 0.94 mmol) was dissolved in TFE (5 mL, 10V) to obtain a mixture. The mixture was stirred at 40° C. HBr (48% aq., 0.175 g, 1.1 eq) was added to the resulting clear pale yellow solution. The solution was stirred at 40° C. for 5 h. The mixture was then cooled to 5° C. while stirring for 16 h. The resulting precipitate was isolated by filtration to give Nilotinib hydrobromide form I.

reactant | Nilotinib | 0.94 mmol, 0.5 g | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | HBr | 0.175 g, 1.1 eq | Br | BrH
solvent | MTBE | CC(C)(C)OC | C5H12O
product | Nilotinib hydrobromide | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.Br | InChI=1S/C28H22F3N7O.BrH/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1H
